US07622480B2
This compound was prepared following the procedure described in example 4, part E, starting with 1.50 g (5.25 mmol) of 1-furan-3-ylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-c]pyridine and 1.55 g (6.3 mmol) of 2-(2-chloroethoxy)-4-methoxybenzoic acid methyl ester. After standard work-up and purification, 0.95 g (36% yield) of 2-{2-[4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-4-methoxy-benzoic acid methyl ester were obtained.

reactant | 1-furan-3-ylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-c]pyridine | 5.25 mmol, 1.50 g | O1C=C(C=C1)CN1C=C(C=2C1=CN=CC2)C2CCNCC2 | C17H19N3O
reactant | 2-(2-chloroethoxy)-4-methoxybenzoic acid methyl ester | 6.3 mmol, 1.55 g | COC(C1=C(C=C(C=C1)OC)OCCCl)=O | C11H13ClO4
product | 2-{2-[4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-4-methoxy-benzoic acid methyl ester | 0.95 g, 36% yield | COC(C1=C(C=C(C=C1)OC)OCCN1CCC(CC1)C1=CN(C2=CN=CC=C21)CC2=COC=C2)=O | C28H31N3O5
